US04997846
A mixture of 6-cyano-3,4-dihydro-2,2-dimethyl-trans-3-hydroxy-4-(4-methoxy-2-oxo-3-pyrrolin-1-yl)-2H-1-benzopyran (0.7 g), benzyl alcohol (0.92 ml) and methanesulfonic acid (0.01 g) was heated at 80° C. for 3 hours under reduced pressure (40 mbars). After cooling the residue was stirred with diethylether, and the insoluble product filtered off and washed twice with diethylether, to give 6-cyano-3,4-dihydro-2,2-dimethyl-trans-3-hydroxy-4-(4-benzyloxy-2-oxo-3-pyrrolin-1-yl)-2H-1-benzopyran, m.p. 248° C.

reactant | 6-cyano-3,4-dihydro-2,2-dimethyl-trans-3-hydroxy-4-(4-methoxy-2-oxo-3-pyrrolin-1-yl)-2H-1-benzopyran | 0.7 g | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)N2C(C=C(C2)OC)=O)C1 | C17H18N2O4
reactant | benzyl alcohol | 0.92 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | methanesulfonic acid | 0.01 g | CS(=O)(=O)O | CH4O3S
solvent | diethylether | C(C)OCC | C4H10O
product | 6-cyano-3,4-dihydro-2,2-dimethyl-trans-3-hydroxy-4-(4-benzyloxy-2-oxo-3-pyrrolin-1-yl)-2H-1-benzopyran | C(#N)C=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)N2C(C=C(C2)OCC2=CC=CC=C2)=O)C1 | C23H22N2O4
